US05354782
Step f: 1,9-Bis[3,5-di-t-butyl-4-hydroxyphenyl]-1,5,9-triazanonane, trihydrochloride
Dissolve 1,9-bis[3,5-di-t-butyl-4-hydroxyphenyl]-5-(t-butyloxycarbonyl)-1,5,9-triazanonane (6.39 g, 10 mmol) in saturated methanolic hydrochloric acid (100 mL). Stir for several hours and evaporate the solvent in vacuo to give the title compound.

reactant | 1,9-bis[3,5-di-t-butyl-4-hydroxyphenyl]-5-(t-butyloxycarbonyl)-1,5,9-triazanonane | 10 mmol, 6.39 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NCCCN(CCCNC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(=O)OC(C)(C)C | C39H65N3O4
reactant | hydrochloric acid | 100 mL | Cl | ClH
product | 1,9-Bis[3,5-di-t-butyl-4-hydroxyphenyl]-1,5,9-triazanonane, trihydrochloride | Cl.Cl.Cl.C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NCCCNCCCNC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | InChI=1S/C34H57N3O2.3ClH/c1-31(2,3)25-19-23(20-26(29(25)38)32(4,5)6)36-17-13-15-35-16-14-18-37-24-21-27(33(7,8)9)30(39)28(22-24)34(10,11)12;;;/h19-22,35-39H,13-18H2,1-12H3;3*1H
